US09278968B2
To a solution of 458 mg of tert-butyl 4-(hydrazinocarbonyl)-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate in 20 ml of dichloromethane were added 0.7 ml of triethylamine and 0.5 ml of trifluoroacetic anhydride at 0° C., followed by warming to room temperature, stirring for 1 hour, and then stirring for 2 hours under heating to reflux. The reaction mixture was left to be cooled to room temperature and the solvent was then evaporated under reduced pressure. 15 ml of dichloroethane, 1.0 ml of triethylamine, and 0.5 ml of trifluoroacetic anhydride were added thereto, followed by stirring for 1 hour under heating to reflux. The reaction mixture was left to be cooled to room temperature and a saturated aqueous sodium hydrogen carbonate solution was added thereto, followed by extraction with chloroform. The organic layer was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 392 mg of tert-butyl 2,2,4-trimethyl-4-[5-(trifluoromethyl)-1,3,4-oxadiazol-2-yl]-1,3-oxazolidine-3-carboxylate.

reactant | tert-butyl 4-(hydrazinocarbonyl)-2,2,4-trimethyl-1,3-oxazolidine-3-carboxylate | 458 mg | N(N)C(=O)C1(N(C(OC1)(C)C)C(=O)OC(C)(C)C)C | C12H23N3O4
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 0.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | tert-butyl 2,2,4-trimethyl-4-[5-(trifluoromethyl)-1,3,4-oxadiazol-2-yl]-1,3-oxazolidine-3-carboxylate | 392 mg | CC1(OCC(N1C(=O)OC(C)(C)C)(C=1OC(=NN1)C(F)(F)F)C)C | C14H20F3N3O4
